US05281711
7.04 g of 10-chloro-6,7-dihydro-4-oxo-3-phenyl-4H-benzo[a]quinolizine-1-carboxylic acid are suspended in 100 ml of ethyl acetate under argon and treated with 2.1 ml of oxalyl chloride. Subsequently, 0.2 ml of N,N-dimethylformamide is added, whereby an evolution of gas is observed. The mixture is left to stir at room temperature for 30 minutes, a further 0.2 ml of oxalyl chloride and thereupon 0.1 ml of N,N-dimethylformamide are added thereto and the mixture is left to stir at room temperature for a further 30 minutes. The reaction mixture is cooled to 0°-5° C. in an ice bath, whereby crystals separate. 13.3 ml of triethylamine are added and a solution of 2.53 g of (S)-3-ethoxypyrrolidine in 25 ml of ethyl acetate is subsequently added dropwise. The mixture is subsequently stirred at about 0° C. for 30 minutes, washed twice with 50 ml of water each time and the combined aqueous phases are extracted once with 20 ml of ethyl acetate. The combined organic phases are dried over sodium sulphate, filtered and evaporated, whereby 9.0 g of crude product are obtained. The crude product is dissolved in 50 ml of methylene chloride and filtered through 45 g of silica gel (methylene chloride/acetone 9:1), whereby 8.6 g of yellow crystals are obtained. These are taken up in 100 ml of tert.-butyl methyl ether and heated to reflux for 1 hour. The mixture is left to cool to room temperature and the crystals (6.95 g) are filtered off under suction. 5.5 g the thus-obtained crude product are recrystallized from 55 ml of ethyl acetate, whereby, for crystallization, the mixture is cooled in an ice bath. After drying at 80° C./0.05 mm (18 hrs.) there are obtained 4.2 g of (S)-1-[(10-chloro-6,7-dihydro-4-oxo-3-phenyl-4H-benzo[a]quinolizin-1-yl)carbonyl]-3-ethoxypyrrolidine of m.p. 134°-136° C.

reactant | 10-chloro-6,7-dihydro-4-oxo-3-phenyl-4H-benzo[a]quinolizine-1-carboxylic acid | 7.04 g | ClC=1C=CC2=C(C3=C(C=C(C(N3CC2)=O)C2=CC=CC=C2)C(=O)O)C1 | C20H14ClNO3
reactant | oxalyl chloride | 2.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | tert.-butyl methyl ether | 100 ml | COC(C)(C)C | C5H12O
product | (S)-1-[(10-chloro-6,7-dihydro-4-oxo-3-phenyl-4H-benzo[a]quinolizin-1-yl)carbonyl]-3-ethoxypyrrolidine | 4.2 g | ClC=1C=CC2=C(C3=C(C=C(C(N3CC2)=O)C2=CC=CC=C2)C(=O)N2C[C@H](CC2)OCC)C1 | C26H25ClN2O3
